US06380230B1
A) Ethyl 4-cycloheptylidene-2-butenoate
6.7 ml of ethyl 4-(diethoxyphosphoryl)-2-butenoate are dissolved in 7 ml of dimethoxyethane and the solution is then poured onto 1.3 g of 60% sodium hydride in 40 ml of dimethoxyethane. After stirring for 45 minutes, the mixture is cooled to 10° C., 3.2 ml of cycloheptanone are then added dropwise and the mixture is allowed to return to RT. After stirring for 4 hours, the mixture is poured onto cold water and then extracted with ether, and the extracts are dried and evaporated. The residue is chromatographed on silica, eluting with DCM. 1.9 g of the expected compound are obtained.

reactant | ethyl 4-(diethoxyphosphoryl)-2-butenoate | 6.7 ml | C(C)OP(=O)(OCC)CC=CC(=O)OCC | C10H19O5P
reactant | sodium hydride | 1.3 g | [H-].[Na+]
reactant | cycloheptanone | 3.2 ml | C1(CCCCCC1)=O | C7H12O
reactant | water | O | H2O
solvent | dimethoxyethane | 7 ml | C(OC)COC | C4H10O2
solvent | dimethoxyethane | 40 ml | C(OC)COC | C4H10O2
product | Ethyl 4-cycloheptylidene-2-butenoate | 1.9 g | C1(CCCCCC1)=CC=CC(=O)OCC | C13H20O2
